US08133907B2
(R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propionaldehyde
To a solution of (R)-2-dibenzylamino-3-(2-fluoro-phenyl)-propan-1-ol (1 g, 2.9 mmol) in 2 mL of diisopropyl-ethyl-amine at 10° C. is slowly added a solution of sulfur trioxide pyridine complex (1.4 g, 8.6 mmol) in 5 mL of DMSO. The reaction is allowed to stir at room temperature for 45 minutes after which time the reaction is quenched by addition of ice water. The product is extracted into ether and the combined organic phases are washed with water, 5% citric acid, and brine. The organic layer is dried over sodium sulfate, filtered, and concentrated under reduce pressure to give the title compound.

reactant | (R)-2-dibenzylamino-3-(2-fluoro-phenyl)-propan-1-ol | 2.9 mmol, 1 g | C(C1=CC=CC=C1)N([C@@H](CO)CC1=C(C=CC=C1)F)CC1=CC=CC=C1 | C23H24FNO
solvent | diisopropyl-ethyl-amine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | (R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propionaldehyde | C(C1=CC=CC=C1)N([C@@H](C=O)CC1=C(C=CC=C1)F)CC1=CC=CC=C1 | C23H22FNO
